US06521666B1
2,6-Dimethoxy-3-methoxymethoxybenzeneboronic acid and N-(2,6-dichlorobenzoyl)-O-(trifluoromethanesulfonyl)-L-tyrosine methyl ester were coupled by a similar method as described in Example 7-2) to give N-(2,6-dichlorobenzoyl)-4(2,6-dimethoxy-3-methoxymethoxyphenyl)-L-phenylalanine methyl ester.

reactant | 2,6-Dimethoxy-3-methoxymethoxybenzeneboronic acid | COC1=C(C(=CC=C1OCOC)OC)B(O)O | C10H15BO6
reactant | N-(2,6-dichlorobenzoyl)-O-(trifluoromethanesulfonyl)-L-tyrosine methyl ester | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C18H14Cl2F3NO6S
product | N-(2,6-dichlorobenzoyl)-4(2,6-dimethoxy-3-methoxymethoxyphenyl)-L-phenylalanine methyl ester | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C(=CC=C1OC)OCOC)OC)=O | C27H27Cl2NO7
